US06271415B1
The reaction of p-hydroxybiphenyl with dimethylthiocarbamoyl chloride followed by Newman-Kwart rearrangement and finally hydrolysis (see J. Het. Chem. 15, 281 (1978) and WO 96/25 936) affords 4-mercaptobiphenyl only in a yield of 39%.

reactant | p-hydroxybiphenyl | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | dimethylthiocarbamoyl chloride | CN(C(=S)Cl)C | C3H6ClNS
product | 4-mercaptobiphenyl | yield of 39% | SC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10S
